US07915443B2
(S)-6-amino-5-[(4-hydroxyphenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
In a manner similar to that describe in Example 467, (S)-6-amino-5-ethynyl-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide and 4-iodophenol are converted to the title compound (41 mg, 62%).

reactant | (S)-6-amino-5-ethynyl-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | NC1=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C=C1C#C | C15H13N3O2S
reactant | 4-iodophenol | IC1=CC=C(C=C1)O | C6H5IO
product | (S)-6-amino-5-[(4-hydroxyphenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 41 mg, 62% | NC1=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C=C1C#CC1=CC=C(C=C1)O | C21H17N3O3S
